### PR TITLE
[Merged by Bors] - feat(Order/Category): `PartOrdEmb` has filtered colimits

### PR DESCRIPTION
**Pull request by joelriou**
---

- [x] depends on: #30693

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Category/PartOrdEmb.lean [hunk 1]
```diff
@@ -166,3 +173,145 @@ theorem partOrdEmb_dual_comp_forget_to_pardOrd :
...
+        obtain ⟨l₂, a₂, b₂, hl₂⟩ := (Types.FilteredColimit.isColimit_eq_iff _ hc).1 hy
+        dsimp at hx hy hl₁ hl₂
+        obtain ⟨m, d, d', h₁, h₂⟩ := bowtie a₁ a₂ b₁ b₂
+        rw [← (F.map (a₁ ≫ d)).le_iff_le] at h
+        rw [← (F.map (b₁ ≫ d)).le_iff_le]
+        conv_rhs => rw [h₂]
+        conv_rhs at h => rw [h₁]
+        simp only [Functor.map_comp, hom_comp, RelEmbedding.coe_trans, Function.comp_apply,
+          ← hl₁, ← hl₂]
+        simpa using h }
```
Comment (robin-carlier) [inline Mathlib/Order/Category/PartOrdEmb.lean]:
```suggestion
        simpa [← hl₁, ← hl₂] using h }
```

after trying for a short while, I couldn’t get `grind` to work on this proof, which is unfortunate because it really feels like something it should be able to do...

**Review by robin-carlier — COMMENTED** [review]
Only the most minor golf suggestion.

Thanks!
maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
